US08304036B2
22.0 g (54.5 mmol) of butyltriphenylphosphonium bromide are initially introduced together with 17.3 g (48.4 mmol) of 5-(4′-ethyl-3-fluorobiphenyl-4-yl)selenophene-2-carbaldehyde in 700 ml of THF, and a solution of 6.0 g (53.5 mmol) of potassium tert-butoxide in 100 ml of THF is added with ice-cooling. The mixture is stirred at RT for 3 h. Water and 2 N hydrochloric acid are added, and the batch is extracted with MTBE. The organic phase is washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, toluene). 2-(4′-Ethyl-3-fluorobiphenyl-4-yl)-5-(pent-1-enyl)selenophene is obtained as an orange solid.

reactant | 5-(4′-ethyl-3-fluorobiphenyl-4-yl)selenophene-2-carbaldehyde | 48.4 mmol, 17.3 g | C(C)C1=CC=C(C=C1)C1=CC(=C(C=C1)C1=CC=C([Se]1)C=O)F | C19H15FOSe
reactant | potassium tert-butoxide | 53.5 mmol, 6.0 g | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | THF | 700 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | butyltriphenylphosphonium bromide | 54.5 mmol, 22.0 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4′-Ethyl-3-fluorobiphenyl-4-yl)-5-(pent-1-enyl)selenophene | C(C)C1=CC=C(C=C1)C1=CC(=C(C=C1)C=1[Se]C(=CC1)C=CCCC)F | C23H23FSe
